reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C@@:2]1([H:10])[C@:3]([O:4][H:12])([H:11])[C@:5]1([O:6][H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[H:11])([C:5](=[O:6])[H:13])[H:10])([H:7])([H:8])[H:9].[H:12][H:14],59.280343906497706
[C:1]([C:2]([C:3]([O:4][H:13])=[C:5]=[N:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],61.217494521970494
[C:1]([O:2][C:3]1=[N:4][C@:7]1(/[C:6](=[N:5]/[H:11])[H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([O:2][c:3]1[n:4][n:5]([H:11])[c:6]([H:12])[c:7]1[H:13])([H:8])([H:9])[H:10],46.8830891821368
[N:1]([C:2](=[O:3])[C:4](=[O:5])[H:8])([H:6])[H:7]>>[N:1](=[C:2](/[O:3][H:6])[C:4](=[O:5])[H:8])\[H:7],48.8286867931143
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])=[C:5]([H:14])[O:6]1)([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9],56.58112697309637
[C:1]1([H:8])([H:9])[C:2]2([O:3]1)[C:4](=[O:5])[C:6]([H:10])([H:11])[O:7]2>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10],73.96549841528379
[C:1]1([H:8])([H:9])[C@@:2]([C:5](=[O:6])[H:14])([H:10])[C@:3]1([O:4][H:13])[H:11].[H:7][H:12]>>[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9],79.6572866923601
[O:1]1[C:2]([H:9])([H:10])[C@@:3]([C:6]#[C:7][H:13])([H:11])[C@@:4]1([O:5][H:8])[H:12]>>[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8],38.6806617459268
[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3]1=[N:4][N+:5]([H:12])([H:13])[C-:6]=[C:7]1[H:14])[H:11])([H:8])([H:9])[H:10],81.2278333317069
[C:1]([C:2]([C:3](=[O:4])[H:10])([H:9])[H:11])([H:5])([H:6])[H:7].[H:8][H:12]>>[C:1]([C:2]([C:3]([O:4][H:12])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7],77.7527311395252
[N:1]1[C@:2]23[C:3]([H:8])([H:9])[O:4][C:5]([H:10])([H:11])[C@:6]12[N:7]3>>[N:1]#[C:2][C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])([H:8])[H:9],12.236990199482008
[C:1]([C:2]([C@@:3]1([H:13])[C:4]([H:15])([H:16])[C@@:6]([O:7][H:14])([H:18])[N:5]1[H:17])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],67.0948779083453
[C:1]([O:4]/[C:3](=[N:2]/[H:10])[C:5](=[O:6])[H:11])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9],58.17597804448379
[C:1]([O:2][C:3](=[O:4])[C:5]([O:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O+:2]=[C-:3][O:4][C:5]([O:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],98.97015853379641
[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[C@:2]([O:3][H:12])([H:11])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C@@:6]1([O:7][H:9])[H:17],83.6660415987114
[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](=[O:4])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5](=[O:6])=[N:7][H:15].[H:13][H:16],79.23279818115371
[C:1]([C:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([O:3][H:11])[C@@:4]2([H:12])[O:5][C@:6]1([H:13])[O:7]2)([H:8])([H:9])[H:10],70.9135916411152
[C-:3]#[O+:4].[O:1]([C:2](=[C:5]=[N:6][H:9])[H:8])[H:7]>>[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[N:6])[H:8])[H:7],28.4639150069992
[O:1]([C:2][C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7]>>[O:1]=[C:2]([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7],29.83648142820101
[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][H:19])([H:8])([H:9])[H:10].[C:3]([C:4]([H:12])([H:13])[H:14])([C@:5]1([H:15])[C:6]([H:17])([H:18])[O:7]1)([H:11])[H:16],80.5656718279828
[C:1]([O+:2]=[C-:3][O:4][C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],48.390173068948485
[O:1]([C:2][C@@:6]1([H:10])[C+:3]([H:8])[N:4]([H:9])[N-:5]1)[H:7]>>[O:1]([c:2]1[c:3]([H:8])[n:4]([H:9])[n:5][c:6]1[H:10])[H:7],12.477914825519989
[C:1]([H:6])[H:7].[O:2]([C:3]([C:4]([O:5][H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[C:1]([O:2][C:3]([C:4]([O:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],3.037223512417114
[C:1]([C:2]([C:3]([H:11])([H:12])[H:14])([C:6](=[C:4]=[O:5])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([H:10])[C:3]([H:11])([H:12])[C:4](=[O:5])[C:6]1([H:13])[H:14])([H:7])([H:8])[H:9],77.69960452511287
[C:1]([C:2]([C:3]#[N:4])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2](=[C:3]=[N:4][H:8])[H:9])([H:5])([H:6])[H:7],93.10646378242741
